US04147804
Into a suspension of 121.1 g. (0.71 moles) of N,2,6-trimethylaniline hydrochloride in 1 l. of benzene at reflux is bubbled an excess of phosgene (0.175 ml. of liquid or 1.6 moles). After introduction of the phosgene, the mixture is refluxed for 1 hour and then 700 ml. of benzene removed by distillation at slightly reduced pressure. After the phosgene is gone the residue is triturated with hexane (300 ml.), filtered and dried to give 2,6-dimethylphenyl-N-methylcarbamoyl chloride (m.p. 79°-80° C.).

reactant | N,2,6-trimethylaniline hydrochloride | 0.71 moles | Cl.CNC1=C(C=CC=C1C)C
reactant | phosgene | 1.6 moles, 0.175 ml | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,6-dimethylphenyl-N-methylcarbamoyl chloride | CC1=C(C(=CC=C1)C)N(C(=O)Cl)C | C10H12ClNO
